US08466283B2
Preparation of 6-(cyclopentylamino)nicotinic acid
6-Fluoronicotinic acid (300 mg, 2.13 mmol) and cyclopentylamine (0.84 mL, 8.50 mmol) were combined in anhydrous THF (5 mL) and triethylamine (0.59 mL, 4.25 mmol). The mixture was heated at 60° C. for 3 days. The mixture was concentrated under reduced pressure, and the residue was suspended in water. The aqueous mixture was brought to pH 3 with phosphoric acid. The resulting precipitate was collected by vacuum filtration, washed with water, and dried in a vacuum oven for 1 h at 50° C. to give the title compound as a solid (63 mg, 14%): HPLC MS RT=1.14 min, MH+=207.2; 1H NMR (DMSO-d6) δ: 12.29 (1H, broad s), 8.50 (1H, d), 7.73 (1H, dd), 7.29 (1H, d), 6.42 (1H, d), 4.16 (1H, broad s), 1.90 (2H, m), 1.67 (2H, m), 1.53 (2H, m), 1.43 (2H, m).

reactant | 6-Fluoronicotinic acid | 2.13 mmol, 300 mg | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | cyclopentylamine | 8.50 mmol, 0.84 mL | C1(CCCC1)N | C5H11N
reactant | triethylamine | 4.25 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(cyclopentylamino)nicotinic acid | 63 mg, 14% | C1(CCCC1)NC1=NC=C(C(=O)O)C=C1 | C11H14N2O2
